* C:\Users\nicola\Documents\git\AnalogSynth\LFO\Simulation\TriangularConverter.asc
V1 N001 0 15
V2 0 N005 15
R5 N002 N004 1k
C3 N003 N002 10µ
R6 N003 N002 2k
XU1 0 N002 N001 N005 N003 LT1001
V4 N004 0 PULSE(0 5 0 1u 1u 50m 100m)
.tran 5000mS startup uic
.lib LTC.lib
.backanno
.end
